US08309580B2
(7) 4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}benzoic acid
To a mixture of 3-[chloro(cyclohexyl)methyl]-2-methyl-5-phenylthiophene (1.08 g) synthesized above, methyl 4-aminobenzoate (1.07 g), sodium iodide (1.06 g) and N,N-dimethylacetamide (20 mL) was added sodium carbonate (668 mg), and the mixture was stirred overnight at 100° C. under an argon atmosphere. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane) to give a white solid. To a mixture of the obtained solid, tetrahydrofuran (10 mL) and ethanol (10 mL) 1N aqueous sodium hydroxide solution (10 mL) was added, and the mixture was stirred heated under reflux for 2.5 hr. 1N Aqueous sodium hydroxide solution (5 mL) was added again, and the mixture was further stirred with heated under reflux for 1 hr, and concentrated under reduced pressure. The residue was dissolved in water (50 mL), and 1N hydrochloric acid (15 mL) was added at 0° C. The resulting precipitate was collected by filtration, and the obtained white solid was dissolved in ethyl acetate. The solution was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (1.21 g, 84%) as a pale-yellow solid.

reactant | 3-[chloro(cyclohexyl)methyl]-2-methyl-5-phenylthiophene | 1.08 g | ClC(C1=C(SC(=C1)C1=CC=CC=C1)C)C1CCCCC1 | C18H21ClS
reactant | methyl 4-aminobenzoate | 1.07 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium iodide | 1.06 g | [I-].[Na+]
reactant | sodium carbonate | 668 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
solvent | ethanol | 1N, 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 4-{[cyclohexyl(2-methyl-5-phenylthiophen-3-yl)methyl]amino}benzoic acid | 1.21 g, 84% | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=CC=C1)C)NC1=CC=C(C(=O)O)C=C1 | C25H27NO2S
